* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : AND3_1x                                      *
* Netlisted  : Fri Apr 17 15:42:25 2026                     *
* Pegasus Version: 23.14-s006 Thu Jan 25 18:41:38 PST 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(N) ngate tndiff(D) poly(G) tndiff(S) psub(B)
*.DEVTMPLT 1 MP(P) pgate tpdiff(D) poly(G) tpdiff(S) nxwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos2v_CDNS_776462136120                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos2v_CDNS_776462136120 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 4 N L=1.8e-07 W=1.5e-06 $X=0 $Y=0 $dt=0
.ends nmos2v_CDNS_776462136120

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos2v_CDNS_776462136121                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos2v_CDNS_776462136121 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 1 P L=1.8e-07 W=5e-07 $X=0 $Y=0 $dt=1
.ends pmos2v_CDNS_776462136121

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos2v_CDNS_776462136122                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos2v_CDNS_776462136122 1 2 3 4
** N=4 EP=4 FDC=1
M0 2 3 1 1 P L=1.8e-07 W=3.2e-06 $X=0 $Y=0 $dt=1
.ends pmos2v_CDNS_776462136122

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos2v_CDNS_776462136123                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos2v_CDNS_776462136123 1 2 3
** N=3 EP=3 FDC=1
M0 2 3 1 1 N L=1.8e-07 W=1e-06 $X=0 $Y=0 $dt=0
.ends nmos2v_CDNS_776462136123

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: AND3_1x                                         *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt AND3_1x A B C Q gnd! vdd!
** N=9 EP=6 FDC=8
X0 1 2 A gnd! nmos2v_CDNS_776462136120 $T=1000 3000 0 180 $X=160 $Y=1150
X1 5 1 B gnd! nmos2v_CDNS_776462136120 $T=4000 3000 0 180 $X=3160 $Y=1150
X2 gnd! 5 C gnd! nmos2v_CDNS_776462136120 $T=7000 3000 0 180 $X=6160 $Y=1150
X3 vdd! 2 A gnd! pmos2v_CDNS_776462136121 $T=900 11800 0 0 $X=-10 $Y=11370
X4 vdd! 2 B gnd! pmos2v_CDNS_776462136121 $T=4400 11800 0 0 $X=3490 $Y=11370
X5 vdd! 2 C gnd! pmos2v_CDNS_776462136121 $T=7800 11800 0 0 $X=6890 $Y=11370
X6 vdd! Q 2 gnd! pmos2v_CDNS_776462136122 $T=10700 6500 0 0 $X=9790 $Y=6070
X7 gnd! Q 2 nmos2v_CDNS_776462136123 $T=10700 3800 0 0 $X=10040 $Y=3450
.ends AND3_1x
