* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                              *
*                                                           *
* Cell Name  : NAND2_1x                                     *
* Netlisted  : Fri Apr 10 16:41:51 2026                     *
* Pegasus Version: 23.14-s006 Thu Jan 25 18:41:38 PST 2024  *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(N) ngate tndiff(D) poly(G) tndiff(S) psub(B)
*.DEVTMPLT 1 MP(P) pgate tpdiff(D) poly(G) tpdiff(S) nxwell(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: NAND2_1x                                        *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt NAND2_1x A B gnd! out vdd!
** N=6 EP=5 FDC=4
M0 6 A out gnd! N L=1.8e-07 W=2.23e-06 $X=750 $Y=850 $dt=0
M1 gnd! B 6 gnd! N L=1.8e-07 W=2.23e-06 $X=1550 $Y=850 $dt=0
M2 out A vdd! vdd! P L=1.8e-07 W=3.8e-06 $X=750 $Y=9050 $dt=1
M3 vdd! B out vdd! P L=1.8e-07 W=3.8e-06 $X=1550 $Y=9050 $dt=1
.ends NAND2_1x
